US07288553B2
2-Isopropenyl-1-methanesulfonyl-5-nitro-6-trifluoromethyl-1H-indole
This compound was prepared using the general Sonagashira conditions as described in general Example C, starting from N-(2-iodo-4-nitro-5-trifluoromethyl-phenyl)-methanesulfonamide (9.0 g, 21.9 mmol) and 2-methyl-1-buten-3-yne (6.25 mL, 65.7 mmol) to yield the title compound as a reddish-brown solid.

reactant | N-(2-iodo-4-nitro-5-trifluoromethyl-phenyl)-methanesulfonamide | 21.9 mmol, 9.0 g | IC1=C(C=C(C(=C1)[N+](=O)[O-])C(F)(F)F)NS(=O)(=O)C | C8H6F3IN2O4S
reactant | 2-methyl-1-buten-3-yne | 65.7 mmol, 6.25 mL | CC(=C)C#C | C5H6
product | 2-Isopropenyl-1-methanesulfonyl-5-nitro-6-trifluoromethyl-1H-indole | C(=C)(C)C=1N(C2=CC(=C(C=C2C1)[N+](=O)[O-])C(F)(F)F)S(=O)(=O)C | C13H11F3N2O4S
